US04046841
The process described in Example 1 was repeated, using a solution in toluene of dimethyl 3-(3-chlorophenoxy)-2-oximinopropylphosphonate in place of the solution in toluene of dimethyl 3-(3-chlorophenoxy)-2-semicarbazonopropylphosphonate, to give dimethyl 3-(3-chlorophenoxy)-2-oxopropylphosphonate, RF = 0.29 (ethyl acetate), RF = 0.58 (5% v/v methanol in methylene dichloride).

reactant | dimethyl 3-(3-chlorophenoxy)-2-oximinopropylphosphonate | ClC=1C=C(OCC(CP(OC)(OC)=O)=NO)C=CC1 | C11H15ClNO5P
reactant | dimethyl 3-(3-chlorophenoxy)-2-semicarbazonopropylphosphonate | ClC=1C=C(OCC(CP(OC)(OC)=O)=NNC(=O)N)C=CC1 | C12H17ClN3O5P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanol | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
product | dimethyl 3-(3-chlorophenoxy)-2-oxopropylphosphonate | ClC=1C=C(OCC(CP(OC)(OC)=O)=O)C=CC1 | C11H14ClO5P
